US04136256
Preparation of N,N-dimethyl-4-(hexadecylamino)benzamide
In a solution of 100 ml. of methylene dichloride and 25 ml. of glyme was dissolved in 10 ml. of thionyl chloride and 4.0 g. of 4-(n-hexadecylamino)benzoic acid hydrochloride. The reaction mixture was heated to the reflux temperature for 2 hours and then cooled to room temperature. To this solution of acid chloride was added a solution of 200 ml. of diethyl ether, 25 ml. of glyme, and 0.1 g. of 4-dimethylaminopyridine which had been saturated with dimethylamine gas. This reaction mixture was stirred at room temperature for 2 hours whereby there was obtained a 92% yield of product, melting point 70°-72° C.

reactant | methylene dichloride | C(Cl)Cl | CH2Cl2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(n-hexadecylamino)benzoic acid hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)O)C=C1
reactant | dimethylamine | CNC | C2H7N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | C(OC)COC | C4H10O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | N,N-dimethyl-4-(hexadecylamino)benzamide | 92% yield | CN(C(C1=CC=C(C=C1)NCCCCCCCCCCCCCCCC)=O)C | C25H44N2O
